data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,9186,"CCOC(=O)C(=C(C)[NH2:1])C(C(=O)OCC)[C:2](C)=[O:3].CO.N.O|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1083,"CCCC.[Li+:1].[Li][C]1(CCCC)C(OC)CCC1(C)[O-:2]|(2, 1)"
train,pmechdb_split_0,0,10215,"C[S:1](=[NH:2])[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3311,"CC(C)=O.CCOC(=O)CC([O-])(Cl)[NH+:1](C1=CC(C(F)(F)F)=CC=C1)[H:2].CC[N:3](CC)CC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,10051,"ClC1=CC=C(C(C(Cl)(Cl)Cl)[C:1]2([H:2])C=CC(Cl)=C[CH+:3]2)C=C1.O=S(=O)([O-])O.[OH2:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,2600,"CC(C)(C)[O-:1].CCOC(=O)C1(C)CCC[CH:2]([H:3])[C:4]1=[O:5]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4500,"CCC(C1CCCCC1)[NH:1]CC.CCCC[C:2](C(CCC1CCCC1)C1CCCCC1)=[O:3].CC[NH2+]C(CC)C1CCCCC1.[BH3-]C#N.[Na+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,230,"BrC1=CN=CC2=C1CCC[C:1]2=[O:2].C1=CC=[NH+]C=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.CCCC[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3654,"CC(=O)[NH-:1].COC1=C(O)C=CC=C1C12CCCC(C1)[N+:2](CC1=CC=CC=C1)=[CH:3][C:4]2(Br)[H:5]|(1, 5);((5, 4), 3);((3, 2), 2)"
train,pmechdb_split_0,0,2454,"CC(=N[Si](C)(C)C)C(C)=[C:1]=[N+:2](C)S(C)(=O)=O.CS(=O)(=O)[N:3](C)[C:4]#[C:5]C.O=S(=O)([O-])C(F)(F)F|(3, 4);((4, 5), 1);((1, 2), 2)"
train,pmechdb_split_0,0,9733,"CN(C)[C:1]1=[CH:2]C=CC=C1.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9293,"CC(C)(O)[CH:1]([H:2])[C:3](C)=[O:4].CC[O-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,408,"CCC1CC2[CH:1](CC1CCC1=CC=CC=C1)[S+:2]2C.CSC.F[B-](F)(F)F.[NH3:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,298,"CN(C[CH2+:1])C[CH:2]=[CH:3]C[Si](C)(C)C|((3, 2), 1)"
train,pmechdb_split_0,0,4804,"CC(C(=O)NC1CCCCC1)[NH2+:1][C:2](=O)[O-:3].C[C+](C)C.O=C([O-])C(F)(F)F.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2930,"CC(C)[CH:1]=[CH2:2].[H:3][F:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7234,"CC[NH2:1].C[C:2](Cl)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8366,"C1C[CH:1]=[CH:2][C:3](=[O:4])C1.CCOC(=O)[CH:5]=[C:6](C)[O-:7]|(7, 6);((6, 5), 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2654,"NC(=O)C1=CC=C[N+:1]([CH:2]2CC(O)C(COC3CCCCC3)[O:3]2)=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6305,"CC(C)CCCCC(O)C(OC1=CC=CC=C1)C(=O)O.CCC1=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1.CCOC(=O)[N:2]=[N:3]C(=O)OCC|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7328,"CO.COC1=CC=C(CC[NH+:1]=[CH2:2])[CH:3]=[CH:4]1.O.[Cl-]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,8604,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CCOC(=O)C1(C(=O)OCC)C(C)CCC2(C#N)C(=O)C[C:1](=[OH+:2])CC21.C[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4646,"CC#[C-:1].CC[N:2](C(C)=O)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4797,"C=CC(=C)C(CC1(C)C(C)CCC2(C)C(COCC3=CC=C(OC)C=C3)=CCCC21)O[B:1]1OC(C(=O)OC(C)C)C(C(=O)OC(C)C)O1.O.[Na+].[OH-:2]|(2, 1)"
train,pmechdb_split_0,0,406,"C1=CC=C([CH2:1][Cl:2])C=C1.C1CC[NH:3]CC1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9686,"CC(=O)OC[C:1](=[O:2])[CH:3]=[CH2:4].CC1=C(CCO)S[C:5](=[C:6](O)C2=CC=C(F)C=C2)[N:7]1CC1=CC=CC=C1.CC[NH+](CC)CC.[Cl-]|(7, 5);((5, 6), 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,3461,"COC1=C2OC3C(N=[N:1][H:2])CCC4(O)C5CC(=C2C34CCN5CCC2=CC=CC=C2)C=C1.[K+].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7213,"N#CC1=C[CH:1]=[CH:2]O1.O=[S+:3](=O)O|((2, 1), 3)"
train,pmechdb_split_0,0,4867,"CC(=[O+][Al-]([Cl])([Cl])[Cl])[C:1]1([H:2])C=CC2=C(CCO2)[CH+:3]1.[Cl][Al-]([Cl])([Cl])[Cl:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,4065,"CCO.NCC[NH+:1](C([O-])(C(=O)C1=CC=CC=C1)C1=CC=CC=C1)[H:2].NCC[NH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7607,"O=C(C(F)(F)F)[O:1][H:2].O=C(NNC(C1=CC=C(Br)C=C1)[OH:3])C1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4049,"CC[N:1](CC)CC.COC1=C(NC(=O)C[N+:2](=CCC(C)(C)C)[H:3])C=CC(OCCOC(C)=O)=C1.O.O=C([O-])C(F)(F)F|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1820,"CC(C)(C)[Si](OCC1NC(CC#N)C[C:1]2=[C:2]3C=CC=C[C:3]3=[NH+:4][C:5]12[H:6])(C1=CC=CC=C1)C1=CC=CC=C1.N#CCC([NH3+])CC1=CNC2=C1C=CC=C2.O.O=C(C(F)(F)F)[O-:7]|(7, 6);((6, 5), 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9637,"CNC(=O)C1CCCN1[C:1](C(NC(=O)OC)C(C)C)([O-:2])[O:3]N1[NH+]=NC2=C1C=CC=C2|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4442,"CC(C)[O-].CC1CC[C:1]([H:2])([O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C)C(C2CCCCC2)C1|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,1504,"COC1=C(NN=[O:1])C2=C(C=C1)C1CCC3(C)C(=O)CCC3C1CC2.F[B-](F)(F)F.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2879,"[Br][Mg:1][CH3:2].[CH3][Mg-]([Br])[P+:3](Cl)(Cl)Cl|((1, 2), 3)"
train,pmechdb_split_0,0,2552,"CC[N-:1]CC.[AlH3:2]|(1, 2)"
train,pmechdb_split_0,0,4609,"C1=CC=C(CC[CH2:1][Br:2])C=C1.CCO[P:3](OCC)OCC|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2081,"CO[C:1](C)([NH2+:2]C)[OH:3].[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,856,"CCC(C)CCC=C(C)CCC(C[O:1][Al-]([CH3])([CH3])[Cl])[C+:2](C)[CH2:3][H:4]|(1, 4);((4, 3), 2)"
train,pmechdb_split_0,0,4024,"CC(=O)[O-:1].COC(C1CCC2(CC1)OCCO2)[OH+:2][H:3].O|(1, 3);((3, 2), 2)"
